US06133279
In 10 ml of N,N-dimethylformamide was dissolved 0.55 g of 5-acetoxy-4,6-di-t-butyl-2-methanesulfonyloxymethyl-2-methyl-2,3-dihydrobenzofuran and combined with 3.0 g of sodium iodide, and the mixture was heated under reflux for 24 hours. After cooling, water was added and the mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was purified by silica gel column chromatography eluting with n-hexane containing 10% ethyl acetate to give 0.4 g of 5-acetoxy-4,6-di-t-butyl-2-iodomethyl-2-methyl-2,3-dihydrobenzofuran (rotamer mixture) as a colorless oil (yield 68%).

reactant | 5-acetoxy-4,6-di-t-butyl-2-methanesulfonyloxymethyl-2-methyl-2,3-dihydrobenzofuran | 0.55 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)COS(=O)(=O)C)C1C(C)(C)C)C(C)(C)C | C21H32O6S
reactant | sodium iodide | 3.0 g | [I-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-acetoxy-4,6-di-t-butyl-2-iodomethyl-2-methyl-2,3-dihydrobenzofuran | 0.4 g, yield 68% | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CI)C1C(C)(C)C)C(C)(C)C | C20H29IO3
